US05652238
(e) [[3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]-p-toluenesulfonate
The [3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methanol (24.2 g, 59 mmol) was dissolved in pyridine (110 mL) and then cooled to 0° C. (ice bath). Freshly recrystalized p-toluenesulfonyl chloride (13.4 g, 70 mmol) of was added and the reaction was allowed to stir at 0° C. for 2.5 hours under N2. The flask was then stoppered and stored in the refrigeratior (5° C.) overnight. The reaction mixture became a pale pink slurry. TLC revealed that some alcohol still remained. The reaction mixture was treated with additional p-toluenesulfonyl chloride (1.12 g, 5.85 mmol), catalytic 4-(dimethylamino)pyridine, and 20 mL of dry CH2Cl2 to facilitate stirring. After 4 hours at 0° C., the reaction was found to be complete by TLC (5% MeOH/CH2Cl3, UV short wave). The mixture was added to 750 mL ice water and the precipitated product isolated via suction filtration, washing it with both water (1 L) and ether (500 mL). After drying in vacuo, 29.921 g (90%) of the title compound was obtained as white solid with mp 150.5°-151.5° C.

reactant | [3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methanol | 59 mmol, 24.2 g | FC=1C=C(C=C(C1N1CCN(CC1)C(=O)OC(C)(C)C)F)N1C(OC(C1)CO)=O | C19H25F2N3O5
reactant | p-toluenesulfonyl chloride | 70 mmol, 13.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | p-toluenesulfonyl chloride | 5.85 mmol, 1.12 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 110 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | [[3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]-p-toluenesulfonate | 29.921 g, 90% | FC=1C=C(C=C(C1N1CCN(CC1)C(=O)OC(C)(C)C)F)N1C(OC(C1)COS(=O)(=O)C1=CC=C(C=C1)C)=O | C26H31F2N3O7S
